US07754737B2
To a solution of (3R)-3-((S)-1-(3-fluorophenyl)-1-hydroxy-5-methoxypentyl)-N-(3-(1-hydroxycyclohexyl)-1-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propan-2-yl)-piperidine-1-carboxamide (17.8 mg, mmol) in anhydrous THF (1 mL) was added Et4NF (3 mg). The solution was stirred at 45° C. for 2 h and evaporated under reduced pressure. The residue was purified by prep HPLC to give (3R)-3-((S)-1-(3-fluorophenyl)-1-hydroxy-5-methoxypentyl)-N-(3-(1-hydroxycyclohexyl)-1-(methylamino)propan-2-yl)piperidine-1-carboxamide (9.5 mg, 58%) as a TFA salt. 1H NMR (400 MHz, CD3OD) δ 7.32 (q, 1H), 7.16 (m, 1H), 7.14 (m. 1H), 6.94 (m, 1H), 4.42 and 4.28 (two isomers in a 3:2 ratio, d, 1H), 4.15 (m, 1H), 3.95 and 3.84 (two isomers on 3 to 2 ratio, d, 1H), 3.32 (m, 1H), 3.26 (s, 3H), 3.14 (dd, 1H), 2.95 (m, 1H), 2.70 (s, 3H), 2.60-2.39 (m 3H), 1.94 (t, 2H), 1.79-1.22 (m, 20H), 1.00 (m, 1H); MS m/z 508 (M+H+).

reactant | (3R)-3-((S)-1-(3-fluorophenyl)-1-hydroxy-5-methoxypentyl)-N-(3-(1-hydroxycyclohexyl)-1-(N-methyl-N-(2-(trimethylsilyl)ethoxycarbonyl)amino)propan-2-yl)-piperidine-1-carboxamide | 17.8 mg | FC=1C=C(C=CC1)[C@@](CCCCOC)(O)[C@H]1CN(CCC1)C(=O)NC(CN(C(=O)OCC[Si](C)(C)C)C)CC1(CCCCC1)O | C34H58FN3O6Si
reactant | Et4NF | 3 mg | [N+](CC)(CC)(CC)CC.[F-]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | (3R)-3-((S)-1-(3-fluorophenyl)-1-hydroxy-5-methoxypentyl)-N-(3-(1-hydroxycyclohexyl)-1-(methylamino)propan-2-yl)piperidine-1-carboxamide | 9.5 mg, 58% | FC=1C=C(C=CC1)[C@@](CCCCOC)(O)[C@H]1CN(CCC1)C(=O)NC(CNC)CC1(CCCCC1)O | C28H46FN3O4
